US04046785
A 500 ml. electromagnetically stirred glass reactor was charged with 5.0 g (0.0151 mole) of 1,5-dinitro-4,8-dihydroxyanthraquinone, 100 g of a 4% aqueous solution of sodium hydroxide and 0.25 g of 5% palladium-carbon. The inside of the reactor was purged with hydrogen, and the 1,5-dinitro-4,8-dihydroxyanthraquinone was hydrogenated at 50° C. with stirring. In 5 hours, 0.0906 mole of hydrogen was absorbed, whereupon the reaction was stopped. The reaction mixture was filtered to separate the catalyst. The filtrate was oxidized with air with stirring at 20° to 30° C. for 2 hours, and then neutralized with 20% sulfuric acid to a pH of 2-3. The crystals precipitated were filtered, washed with water, and dried to afford 4.0 g of 1,5-diamino-4,8-dihydroxyanthraquinone in a yield of 97.8%.

reactant | 1,5-dinitro-4,8-dihydroxyanthraquinone | 0.0151 mole, 5.0 g | [N+](=O)([O-])C1=CC=C(C=2C(C3=C(C=CC(=C3C(C12)=O)O)[N+](=O)[O-])=O)O | C14H6N2O8
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrogen | 0.0906 mole | [H][H] | H2
catalyst | palladium-carbon | 0.25 g | [C].[Pd]
product | 1,5-diamino-4,8-dihydroxyanthraquinone | 4.0 g, yield of 97.8% | NC1=CC=C(C=2C(C3=C(C=CC(=C3C(C12)=O)O)N)=O)O | C14H10N2O4
